US09228120B2
Additionally, for example when mixing tetramethyldisilazane as the silicon compound B and trifluoroacetic anhydride as the acid B, the trifluoroacetic anhydride is rapidly reacted to form dimethylsilyl trifluoroacetate as the acid A.

reactant | tetramethyldisilazane | CN([Si](C)(C)C)[SiH3] | C4H15NSi2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | dimethylsilyl trifluoroacetate | FC(C(=O)O[SiH](C)C)(F)F | C4H7F3O2Si
